### ISSUE TITLE
`rw` selects the wrong equation, leading to impossible goals

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#8454]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Consider this code:
```lean
inductive Expr where
  | Num : Int32 → Expr
  | Plus : Expr → Expr → Expr

open Expr

def opt : Expr → Expr
  | Plus (Num 0) e => opt e
  | Plus e (Num 0) => opt e
  | Plus e₁ e₂ => Plus (opt e₁) (opt e₂)
  | other => other
  
#print eqns opt

theorem l : ∀ e, opt (Plus (Num 0) e) = opt e := by
  intro e
  rw [opt]

```

Here are the equations generated for `opt`:

```lean
theorem opt.eq_1 : ∀ (e : Expr), opt ((Num { toUInt32 := { toBitVec := 0#32 } }).Plus e) = opt e
theorem opt.eq_2 : ∀ (e : Expr),
  (e = Num { toUInt32 := { toBitVec := 0#32 } } → False) →
    opt (e.Plus (Num { toUInt32 := { toBitVec := 0#32 } })) = opt e
theorem opt.eq_3 : ∀ (e₁ e₂ : Expr),
  (e₁ = Num { toUInt32 := { toBitVec := 0#32 } } → False) →
    (e₂ = Num { toUInt32 := { toBitVec := 0#32 } } → False) → opt (e₁.Plus e₂) = (opt e₁).Plus (opt e₂)
theorem opt.eq_4 : ∀ (x : Expr),
  (∀ (e : Expr), x = (Num { toUInt32 := { toBitVec := 0#32 } }).Plus e → False) →
    (∀ (e : Expr), x = e.Plus (Num { toUInt32 := { toBitVec := 0#32 } }) → False) →
      (∀ (e₁ e₂ : Expr), x = e₁.Plus e₂ → False) → opt x = x
```

Now, in the theorem, `rw`, working syntactically, decides not to apply `eq_1` or `eq_2`, opting instead for `eq_3`, creating two additional goals to show that the first two equations are not applicable, but of course one of these goals is actually unprovable because the first equation is applicable.

`erw [opt]` does the right thing, as does `apply opt.eq_1`.

It's pretty clear that this is undesirable behavior and confusing for new users. It's less clear what needs to be fixed here:

- should the generated equations match the syntax used by the user when specifying the equations more closely (which might make this a duplicate of #5282)?
- does `rw` need to be changed?
- should `Int32` be changed to not leak its implementation?
- is this a problem with nat literals?

### Context

As reported on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Odd.20rewrites.20when.20dealing.20with.20Int32/with/520041338).

**Expected behavior:** `rw [opt]` applies the first equation, closing the goal.

**Actual behavior:** `rw [opt]` creates multiple confusing goals, two of which are unprovable.

### Versions

`4.21.0-nightly-2025-05-23` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I’d say the bug is clearly with the equational theorems, they look pretty broken to me, and it would fix it:

```

theorem opt.eq_1' : ∀ (e : Expr), opt (Plus (Num 0) e) = opt e := opt.eq_1

theorem l : ∀ e, opt (Plus (Num 0) e) = opt e := by
  intro e
  rw [opt.eq_1'] -- works
```


Note that `rw` + overlapping pattern don’t mix well in general: Imagine the goal is `Plus n e` in a context with `n = 0`, then `rw [opt]` will still pick `opt.eq_3`, leading to impossible goals.
